Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Cardiac cath ___

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:  
___ M with HTN, HLD, DVT's on warfarin who presented to
___ with 4 days of intermittent substernal pressure 
after
meals, transferred to ___ for catheterization evaluation given
elevated troponin.

Patient states the symptoms started 4 days ago after eating
dinner.  He has experienced associated nausea, light headedness,
and chills.  Feels that the symptoms are similar to acid reflux,
but denies history of prior GERD.  Symptoms will resolved with
time, took ___ hours yeterday, but will return after eating a
meal.  Denies associated SOB, vomiting, abdominal pains.  He was
evaluated at OSH and found to have troponin to 0.019.  RUQUS at
bedside without gallstones or biliary abnormality, CXR without
intrathoracic pathology.  He was given 324 mg of ASA and sent to
___ for further evaluation for possible catheterization.

At ___ ED his EKG was without ischemic changes, in NSR. 
Troponin was elevated to 0.03 and cardiology evaluated for
NSTEMI, recommending admission to ___.

In the ED initial vitals were: 
98.4F, 78, 103/55, 18, 97% on RA

___ labs:
WBC 11.17, Hgb 14.1, PLT 243
Na 139, K 4.7, Cl 99, HCO3 25, BUN 17, Cr 0.79
TP 7.4, Alb 4.2, AST 34, ALT 17, Tbili 0.52, AP 84
Lipase 20
INR 3.0, PTT 36.2
Tnt 0.014 > 0.019

___ ED labs
WBC 8.5, Hgb 12.2, PLT 246
Na 141, K 3.8, Cl 107, HCO3 24, BUN 17, Cr 1.0
Ca 8.4, Mg 2.2, P 3.1
___ 41.2, PTT 34.6, INR 3.8
TnT 0.03
UA negative for UTI

EKG: NSR, no evidence of ischemia, likely ___

Patient was given: 
Simvastatin

Vitals on transfer:  
82 BPM, 110/71, 18, 96% on RA

On the floor, he endorses the above history.  He has been having
chest pressure after eating food over the last 4 days.  The
pressure lasts for ___ hours and resolves without intervention. 
He has attempted to take TUMS without improvement.  Had SOB on
the first day with the pressure, but nothing since then.  One
episode of nausea AM of ___.  He also has been having
intermittent chills, but no fevers.  Denies abdominal pain,
vomiting, ___ edema, pain.  Notes ongoing diarrhea in the setting
of colitis, without any new changes.      

REVIEW OF SYSTEMS:  
10 point ROS as above, otherwise negative

 
Past Medical History:
1. CARDIAC RISK FACTORS    
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY  
- Coronaries: None on file 
- No prior TTE 
3. OTHER PAST MEDICAL HISTORY  
Psoriasis
hypercholesterolemia
LEFT POPLITEAL DVT (___) with repeat 6 months later on lifelong
warfarin, were unable to rule out PE at the time
cataracts
Colitis on mesalamine
Diastasis Recti
PERIPHERAL NEUROPATHY

 
Social History:
___
Family History:
Father with MI at ages ___, ___, ___, did not die of heart disease. 

Mother died of MI.  

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
===============================  
24 HR Data (last updated ___ @ 027)
    Temp: 98.0 (Tm 98.0), BP: 133/73, HR: 83, RR: 20, O2 sat:
98%, O2 delivery: RA, Wt: 183.64 lb/83.3 kg  

GEN: Older appearing man sitting in NAD.  Pleasant.
HEENT: PEERL, non-erythematous oropharynx with poor superior
dentition.
NECK: no cervical LAD in anterior or posterior chains
CV: RRR, no m/g/r
PULM: CTAB with no w/c/r
ABD: soft, NTND
EXT: ___ venous stasis without tenderness.  no pitting edema.
PULSES: LLE pulses palpable ___

DISCHARGE PHYSICAL EXAMINATION:  
===============================  
24 HR Data (last updated ___ @ 720)
    Temp: 97.6 (Tm 97.8), BP: 128/69 (96-140/49-82), HR: 71
(60-82), RR: 18 (___), O2 sat: 98% (95-98), O2 delivery: RA  
GEN: in NAD. 
NECK: JVP not elevated 
CV: RRR, no m/g/r
PULM: CTAB with no w/c/r
ABD: soft, NTND
EXT: WWP, ___ venous stasis changes.  No edema.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 07:40PM   WBC-8.5 RBC-4.12* HGB-12.2* HCT-37.4* MCV-91 
MCH-29.6 MCHC-32.6 RDW-12.9 RDWSD-43.0
___ 07:40PM   PLT COUNT-246
___ 07:40PM   ___ PTT-34.6 ___
___ 07:40PM   CALCIUM-8.4 PHOSPHATE-3.1 MAGNESIUM-2.2
___ 07:40PM   CK-MB-2
___ 07:40PM   cTropnT-0.03*
___ 07:40PM   GLUCOSE-91 UREA N-17 CREAT-1.0 SODIUM-141 
POTASSIUM-3.8 CHLORIDE-107 TOTAL CO2-24 ANION GAP-10

REPORTS:
==============
___ P MIBI
1. Reversible, medium sized, mild perfusion defect involving the 
RCA territory. 

2. Increased left ventricular cavity size.  Mild systolic 
dysfunction with 
hypokinesis of the basal inferior wall.   
  

___ CARDIAC CATH
The left main, circumflex and right coronary artery have no 
angiographically significant coronary  abnormalities. The left 
anterior descending was calcified proximally with mild 
irregularities.

Complications: There were no clinically significant 
complications.
Findings
• No angiographically significant coronary artery disease.

DISCHARGE LABS:
===============
___ 08:08AM BLOOD ___ PTT-29.0 ___
 
Brief Hospital Course:
SUMMARY:
=============
___ M with HTN, HLD, DVT's on warfarin presenting with 4 days of 
intermittent substernal pressure after meals found to have 
NSTEMI with troponin leak to 0.03. He initially underwent stress 
echo which was non-diagnostic. He subsequently underwent PMIBI 
which demonstrated a reversible defect, however coronary 
angiography did not demonstrate any significant coronary 
disease. LLE ultrasound demonstrated chronic DVT and he was 
discharged on a bridge of lovenox to warfarin. 

TRANSTIONAL ISSUES:
===================
[] recommend INR check on ___
[] consider reevaluation of left lower extremity with repeat 
ultrasound or referral to hematology for work up of chronic 
thrombus despite anticoagulation 
[] started atorvastatin for primary prevention 

=============== 
ACTIVE ISSUES: 
=============== 
#NSTEMI
He presented with chest pressure after meals over the last 4 
days that raised concern for cardiac ischemia in the setting of 
multiple risk factors including HLD, family history, and 
self-reported history of "poor leg function" likely consistent 
with PAD. He initially presented to ___ where EKG was 
without ischemic changes, but was noted to have a mild troponin 
leak to 0.01. He received an aspirin load and was subsequently 
transferred to ___ where troponins were noted to uptrend, with 
peak at 0.03. He initially underwent stress TTE which was 
non-diagnostic due to poor exercise performance. He subsequently 
underwent P-MIBI which demonstrated a reversible defect, however 
cardiac cath was without significant coronary disease. His home 
lisinopril 10mg was continued. His home simvastatin was 
converted to high dose atorvastatin. 

#HISTORY OF L. POPLITEAL ANKLE DVT:
#SUPRATHERAPEUTIC INR:
INR was supratherapeutic to 3.8 on presentation. Warfarin was 
initially held in the setting supratherapeutic INR and in case 
of potential cath. A lower extremity ultrasound showed chronic 
DVT in the left popliteal vein. Given this, he was discharged on 
a lovenox bridge to therapeutic warfarin. 

================ 
CHRONIC ISSUES: 
================ 

#COLITIS:
S/p C-scope at ___ in ___. Currently on apriso formulation 
of mesalamine. He was converted to equivalent dose of pentasa, 
500mg TID while in house. 

#HLD: 
Transitioned from home simvastatin to atorvastatin 40mg as 
above. 

#PERIPHERAL NEUROPATH: 
Unclear etiology. A1c 5.3. Continued home gabapentin. 

================== 
CORE MEASURES: 
================== 
# CODE STATUS: Full (presumed)
# CONTACT: ___ (brother): ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 6 mg PO 5X/WEEK (___) 
2. Simvastatin 20 mg PO QPM 
3. Ketoconazole Shampoo 1 Appl TP ASDIR 
4. Gabapentin 200 mg PO TID 
5. Lisinopril 10 mg PO DAILY 
6. Apriso (mesalamine) 1.5 GM oral QAM 
7. Warfarin 7 mg PO 2X/WEEK (___) 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM 
2.  Enoxaparin Sodium 80 mg SC Q12H 
3.  Apriso (mesalamine) 1.5 GM oral QAM  
4.  Gabapentin 200 mg PO TID  
5.  Ketoconazole Shampoo 1 Appl TP ASDIR  
6.  Lisinopril 10 mg PO DAILY  
7.  Warfarin 6 mg PO 5X/WEEK (___)  
8.  Warfarin 7 mg PO 2X/WEEK (___) 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you had chest pain. 

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You underwent two stress tests. The first one was 
non-diagnostic. The second one showed abnormal findings.
- You had a cardiac cath that showed no significant coronary 
artery disease. 

WHAT SHOULD I DO WHEN I GO HOME?
- You should take lovenox until directed to stop by your 
___ clinic
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below. 
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  

We wish you the best!
Your ___ Care Team 

 
Followup Instructions:
___